US07375249B2
(S)-Ethyl-methyl-carbamic acid 3-prop-2-ynylamino-indan-5-yl ester
Methanesulfonyl anhydride (1.544 g, 8.9 mmol) as a solution in dichloromethane (7.5 mL+2.5 mL) was added to a stirred solution of (R)-ethyl-methyl-carbamic acid 3-hydroxy-indan-5-yl ester (1.04 g, 4.4 mmol) and triethylamine (2.5 mL, 17.7 mmol) in dichloromethane (10 mL) at −35° C. (external) over 10 minutes. The reaction was maintained at this temperature for 45 minutes before propargylamine (3.0 mL, 44.3 mmol) was added. The reaction was allowed to warm slowly to room temperature overnight before being partitioned between ethyl acetate (100 mL) and ice-water (100 mL). The organic material was concentrated under reduced pressure to afford a brown oil which was partitioned between methyl tert-butyl ether (50 mL) and aqueous hydrochloric acid (1M, 50 mL). The aqueous layer was basified by addition of aqueous sodium hydroxide solution (2M, 40 mL) before being extracted with ethyl acetate (50 mL). This final organic extract was dried (MgSO4), filtered and concentrated under reduced pressure to afford the title compound (842 mg, 70%). 1H NMR (400 MHz, CDCl3) δ ppm 7.19 (1H, d, J 8, Ar), 7.09 (1H, s, Ar), 6.94 (1H, brd, J, 8, Ar), 4.39 (1H, dd, J 6 and 6, NHCH), 3.55 (1H, Dd, J 17 and 2, NCHH), 3.49 (1H, Dd, J 17 and 2, NCHH), 3.46 (rotamer A, 1H, q, J 8, MeCHHN), 3.40 (rotamer B, 1H, q, J 7, MeCHHN), 3.06 (rotamer A, 1.5H, s, MeN), 3.03-2.95 [2.5H, m, NCHCH2CHH and rotamer B, Me, incl. at 2.98 (rotamer B, 1.5H, s, MeN)], 2.83-2.75 (1H, m, NCHCH2CHH), 2.48-2.39 (1H, m, NCHCHH), 2.25 (1H, t, J 2, ≡CH), 1.92-1.83 (1H, m, NCHCHH), 1.23 (rotamer A, 1.5H, t, J 7, MeN) and 1.18 (rotamer B, 1.5H, t, J 7, MeN). Analysis of this material by chiral LC indicated it to be 62% e.e.

reactant | (R)-ethyl-methyl-carbamic acid 3-hydroxy-indan-5-yl ester | 4.4 mmol, 1.04 g | O[C@@H]1CCC2=CC=C(C=C12)OC(N(C)CC)=O | C13H17NO3
reactant | triethylamine | 17.7 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | propargylamine | 44.3 mmol, 3.0 mL | C(C#C)N | C3H5N
solvent | dichloromethane | 7.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-Ethyl-methyl-carbamic acid 3-prop-2-ynylamino-indan-5-yl ester | 842 mg, 70% | C(C#C)N[C@H]1CCC2=CC=C(C=C12)OC(N(C)CC)=O | C16H20N2O2
